US09145433B2
Reaction mixture containing N′-(5-bromopyridin-2-yl)-N,N-dimethylformimidamide (6.5 g, 28.5 mmol), methyl 2-bromoacetate (5.6 g, 3.5 mL, 37.0 mmol) and NaHCO3 (4.1 g, 48.8 mmol) in i-PrOH (60 mL) was heated at 90° C. under nitrogen. The heating was stopped after 12 h and cooled the dense heterogeneous reaction mixture to room temperature. The reaction mixture was concentrated and diluted with water. The resultant slurry was collected by suction filtration and obtained methyl 6-bromoimidazo[1,2-a]pyridine-3-carboxylate (6.9 g) as a tan white solid upon drying. 1H NMR (300 MHz, DMSO-d6): δ 9.31 (d, J=1.8 Hz, 1H), 8.31 (s, 1H), 7.80 (d, J=9.5 Hz, 1H), 7.71 (dd, J=9.5, 1.6 Hz, 1H), 3.88 (s, 4H). Ester hydrolysis was done by stirring a solution of methyl 6-bromoimidazo[1,2-a]pyridine-3-carboxylate (2.5 g), LiOH.H2O (1.2 g) in THF/MeOH/H2O (1/1/1, 75 mL) at room temperature. Reaction mixture was concentrated upon complete hydrolysis of ester to corresponding acid, diluted with water/ice and acidified with 2N. aq HCl until pH 6. The resulting solid was filtered, suction dried followed by drying under P2O5 under vacuum to obtain 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid (2.2 g) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 13.27 (s, 1H), 9.36 (s, 1H), 8.24 (s, 1H), 7.77 (d, J=9.5 Hz, 1H), 7.67 (d, J=9.5, 1.7 Hz, 1H).

reactant | methyl 6-bromoimidazo[1,2-a]pyridine-3-carboxylate | 2.5 g | BrC=1C=CC=2N(C1)C(=CN2)C(=O)OC | C9H7BrN2O2
reactant | LiOH.H2O | 1.2 g | O[Li].O
solvent | THF MeOH H2O | 75 mL | C1CCOC1.CO.O
product | 6-bromoimidazo[1,2-a]pyridine-3-carboxylic acid | 2.2 g | BrC=1C=CC=2N(C1)C(=CN2)C(=O)O | C8H5BrN2O2
